US04644000
35.2 g (0.2 mole) of 2-hydrazino-4(3H)-quinazolinone, 500 ml of ethanol and 31.68 g (0.24 mole) of 4,4-dimethoxy-butan-2-one are boiled under reflux for 4.5 hours. The initial suspension has then dissolved. The same volume of 2 N HCl at 50° is added at 50°, whereupon a precipitate soon forms. After warming at 50° for a total of 40 minutes, the 2-(3-methyl-1H-pyrazol-1-yl)-4(3H)-quinazolinone is isolated by filtration with suction. The crude product (35.9 g of melting point 162° to 165° C.) is recrystallized from ethanol and then has a melting point of 165° to 166° C.

reactant | 2-hydrazino-4(3H)-quinazolinone | 0.2 mole, 35.2 g | N(N)C1=NC2=CC=CC=C2C(N1)=O | C8H8N4O
reactant | 4,4-dimethoxy-butan-2-one | 0.24 mole, 31.68 g | COC(CC(C)=O)OC | C6H12O3
reactant | HCl | 2 N | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(3-methyl-1H-pyrazol-1-yl)-4(3H)-quinazolinone | CC1=NN(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C12H10N4O
